US08222245B2
1,1-Dimethylethyl 6-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (Preparation 15) (360 mg, 1.179 mmol) was dissolved in THF (50 ml) and stirred with sodium hydride (60% dispersion in mineral oil, 51.9 mg, 1.297 mmol) under argon at room temperature for 30 minutes. Then methyl 3-cyano-4-[(1-methylethyl)oxy]benzoate (may be prepared as described in WO2005058848) (388 mg, 1.768 mmol) was added as a THF solution (5 ml) and the reaction heated at reflux temperature for 1.5 hours. The cooled reaction was evaporated and partitioned between DCM (100 ml) and water (100 ml). The water layer was washed with DCM (50 ml) and the combined DCM layers dried (hydrophobic frit) and evaporated. The product was isolated by silica chromatography (eluting with DCM) to give 1,1-dimethylethyl 6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (505 mg, 1.011 mmol, 86% yield) as a white foam. δH (400 MHz, CDCl3) 8.41 (1H, s), 8.33 (1H, dd), 7.7 (1H, dd), 7.31-7.25 (2H, m), 7.13 (1H, d), 4.80 (1H, sept), 3.63-3.62 (4H, m), 3.3-3.2 (2H, m), 2.95-3.05 (2H, m), 1.47 (6H, d), 1.43 (9H, br.s); MS (ES) C27H30N4O4 requires 474; found 475 [M+H]+.

reactant | 1,1-Dimethylethyl 6-[(hydroxyamino)(imino)methyl]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.179 mmol, 360 mg | ONC(C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C)=N | C16H23N3O3
reactant | sodium hydride | 1.297 mmol, 51.9 mg | [H-].[Na+]
reactant | methyl 3-cyano-4-[(1-methylethyl)oxy]benzoate | 1.768 mmol, 388 mg | C(#N)C=1C=C(C(=O)OC)C=CC1OC(C)C | C12H13NO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl 6-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 1.011 mmol, 505 mg, 86% yield | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C1=CC=CC=2CCN(CCC21)C(=O)OC(C)(C)C | C27H30N4O4
